US05972935
Methyl 4'-((4-chlorobutanoyl)amino)-2'-methylbiphenyl4-carboxylate
Methyl 4'-amino-2'-methylbiphenyl-4-carboxylate (D27) (1.84 g, 7.6 mmol) and triethylamine (2.6 ml, 19 mmol) were stirred in dichloromethane (100 ml) as 4-chlorobutyryl chloride (0.94 ml, 8.4 mmol) was added dropwise. The mixture was stirred for 1 h, vigorously stirred with water for 15 min, acidified (5M HCl), and separated. The organic phase was washed with water and K2CO3 /brine solution, dried (Na2SO4) and evaporated to give a light yellow solid. Chromatography on silica gel, eluting with 0-40% ether/dichloromethane, gave the title compound (1.08 g, 41%) as a light yellow solid.

reactant | Methyl 4'-amino-2'-methylbiphenyl-4-carboxylate | 7.6 mmol, 1.84 g | NC1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)OC)C | C15H15NO2
reactant | triethylamine | 19 mmol, 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobutyryl chloride | 8.4 mmol, 0.94 ml | ClCCCC(=O)Cl | C4H6Cl2O
reactant | HCl | 5M | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Methyl 4'-((4-chlorobutanoyl)amino)-2'-methylbiphenyl4-carboxylate | 1.08 g, 41% | ClCCCC(=O)NC1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)OC)C | C19H20ClNO3
